US09193693B2
Step 1. 3-(4-(tert-Butoxycarbonyl)piperidin-1-yl)-2-phenylquinoxaline-6-carboxylic acid
Into a 100-mL round-bottom flask, was placed a solution of methyl 3-(4-(tert-butoxycarbonyl)piperidin-1-yl)-2-phenylquinoxaline-6-carboxylate (700 mg, 1.52 mmol, 1.00 equiv) in tetrahydrofuran (50 mL). Then sodium hydride (300 mg, 12.50 mmol, 8.25 equiv) was added. The resulting mixture was stirred for 1 h at room temperature. To this was added CH3I (0.5 mL) at 0° C. The resulting solution was stirred 3 h at room temperature. The reaction was then quenched by the addition of icewater. The resulting mixture was concentrated under vacuum. This resulted in 0.65 g (93%) of 3-(4-(tert-butoxycarbonyl)piperidin-1-yl)-2-phenylquinoxaline-6-carboxylic acid as yellow oil.

reactant | methyl 3-(4-(tert-butoxycarbonyl)piperidin-1-yl)-2-phenylquinoxaline-6-carboxylate | 1.52 mmol, 700 mg, 1.00 equiv | C(C)(C)(C)OC(=O)C1CCN(CC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C26H29N3O4
reactant | sodium hydride | 12.50 mmol, 300 mg, 8.25 equiv | [H-].[Na+]
reactant | CH3I | 0.5 mL | CI | CH3I
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 3-(4-(tert-Butoxycarbonyl)piperidin-1-yl)-2-phenylquinoxaline-6-carboxylic acid | C(C)(C)(C)OC(=O)C1CCN(CC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)O)C1=CC=CC=C1 | C25H27N3O4
